US08008296B2
Methanesulfonic acid 3-pyridin-4-yl-propyl ester
To a stirring solution of 3-pyridin-4-yl-propan-1-ol (0.71 mL, 5.47 mmol) in dichloromethane (20 mL) in a 0° C. ice bath, is added triethylamine (0.95 mL, 6.83 mmol) and methanesulfonylchloride (0.44 mL, 5.74 mmol) and the ice bath removed. The mixture is stirred at room temperature for 15 min after which time the reaction is complete. The product is left in solution and used as is in the subsequent reaction.

reactant | 3-pyridin-4-yl-propan-1-ol | 5.47 mmol, 0.71 mL | N1=CC=C(C=C1)CCCO | C8H11NO
reactant | triethylamine | 6.83 mmol, 0.95 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonylchloride | 5.74 mmol, 0.44 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | Methanesulfonic acid 3-pyridin-4-yl-propyl ester | N1=CC=C(C=C1)CCCOS(=O)(=O)C | C9H13NO3S
